US04814341
2-(3-n-Hexylguanidino)-4-(5-[N,N-dimethylcarbamoyl]-2-furyl)thiazole Hydrobromide
A mixture of 2.6 g. (0.01 mole) of N,N-dimethyl5-(2-bromoacetyl)furan-2-carboxamide, 2.02 g. (0.01 mole) of (N-n-hexylguanyl)thiourea and 75 ml. of acetone was heated under reflux for 4 hours, and then it was cooled and filtered. This gave 2.3 g. of the title compound as a white solid, mp. 155°-158° C.

reactant | N,N-dimethyl5-(2-bromoacetyl)furan-2-carboxamide | 0.01 mole | CN(C(=O)C=1OC(=CC1)C(CBr)=O)C | C9H10BrNO3
reactant | (N-n-hexylguanyl)thiourea | 0.01 mole | C(CCCCC)NC(=N)NC(=S)N | C8H18N4S
solvent | acetone | CC(=O)C | C3H6O
product | 2-(3-n-Hexylguanidino)-4-(5-[N,N-dimethylcarbamoyl]-2-furyl)thiazole Hydrobromide | Br.C(CCCCC)NC(NC=1SC=C(N1)C=1OC(=CC1)C(N(C)C)=O)=N | InChI=1S/C17H25N5O2S.BrH/c1-4-5-6-7-10-19-16(18)21-17-20-12(11-25-17)13-8-9-14(24-13)15(23)22(2)3;/h8-9,11H,4-7,10H2,1-3H3,(H3,18,19,20,21);1H
